US05021481
5,5-Dimethyl-2-[N-(1-alpha-methylbenzyloxy-2,2,6,6-tetra-methylpiperidin-4-yl) -N-dodecylamino]-1,3,2-dioxaphosphorinane
A solution of 3.03 grams (18.0 mmol) of 2-chloro-5,5-dimethyl-1,3,2-dioxaphosphorinane in 10 ml of tetrahydrofuran is added over ten minutes to a solution of 8.00 grams (18.0 mmol ) of 4-dodecylamino-1-alpha-methylbenzyloxy2,2,6,6-tetramethylpiperidine, 1.91 grams (18.9 mmol) of triethylamine, and 25 ml of tetrahydrofuran. The reaction temperature increases from 20° C. to 30° C. during the addition, and triethylamine hydrochloride precipitates from solution. The reaction mixture is stirred at ambient temperature for two hours. The precipitate is removed by filtration, and the filtrate is concentrated at reduced pressure. Residual volatiles are removed by Kugelrohr distillation (at 100° C./0.2 mm) to afford 10.1 grams (97% yield) of the title compound as a viscous oil.

reactant | 2-chloro-5,5-dimethyl-1,3,2-dioxaphosphorinane | 18.0 mmol, 3.03 grams | ClP1OCC(CO1)(C)C | C5H10ClO2P
reactant | 4-dodecylamino-1-alpha-methylbenzyloxy2,2,6,6-tetramethylpiperidine | 18.0 mmol, 8.00 grams | C(CCCCCCCCCCC)NC1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C | C29H52N2O
reactant | triethylamine | 18.9 mmol, 1.91 grams | C(C)N(CC)CC | C6H15N
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5,5-Dimethyl-2-[N-(1-alpha-methylbenzyloxy-2,2,6,6-tetra-methylpiperidin-4-yl) -N-dodecylamino]-1,3,2-dioxaphosphorinane | 10.1 grams, 97% yield | CC1(COP(OC1)N(CCCCCCCCCCCC)C1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C)C | C34H61N2O3P
